US07585875B2
To a solution of 742 mg (2.5 mmol) of 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one oxime in 5 ml of anhydrous THF was added 2 ml of trimethylsilyl isocyanate (85%) dropwise at 0° C. over 30 minutes. The mixture was stirred at room temperature over 48 hours, followed by addition of 50 μl pyridine. After stirring for another 4 hours, the solvent was removed and the residue was purified on an aluminum oxide column with hexane-dichloromethane-ethyl acetate as eluant to yield 482 mg (56.7%) of 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one O-carbamoyl oxime. Compound 1020.

reactant | 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one oxime | 2.5 mmol, 742 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C(C)C)=NO | C17H16FN3O
reactant | trimethylsilyl isocyanate | 2 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | pyridine | 50 μl | N1=CC=CC=C1 | C5H5N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one O-carbamoyl oxime | 482 mg, 56.7% | C(N)(=O)ON=C(C(C)C)C=1C(=NN2C1C=CC=C2)C2=CC=C(C=C2)F | C18H17FN4O2
